US09238640B2
Preparation of 5,7-Dimethoxy-2-(3-methyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)quinazolin-4(3H)-one
To a suspension of 2-[4-(2-bromo-ethoxy)-3-methyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.70 g, 1.67 mmol) in anhydrous DMF (9 mL) was added pyrrolidine (0.55 mL, 6.68 mmol) and the reaction mixture was stirred at room temperature under nitrogen for 20 hours. Solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel 230-400 mesh; 9% methanol in dichloromethane as eluent) to give the title compound as an off-white solid. Yield: 0.62 g (90.6%). MP 230-231° C. 1H NMR (400 MHz, CDCl3): δ 9.96 (br s, 1H), 7.91-7.89 (m, 2H), 6.93 (d, J=7.6 Hz, 1H), 6.82 (d, J=2.4 Hz, 1H), 6.44 (d, J=2.4 Hz, 1H), 4.21 (t, J=6.0 Hz, 2H), 3.98 (s, 3H), 3.93 (s, 3H), 2.98 (t, J=6.0 Hz, 2H), 2.69 (br s, 4H), 2.32 (s, 3H), 1.84-1.81 (m, 4H). MS (ES−) m/z 408.13 (M−1, 100%), MS (ES+) m/z 410.14 (M+1, 75%).

reactant | 2-[4-(2-bromo-ethoxy)-3-methyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.67 mmol, 0.70 g | BrCCOC1=C(C=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C19H19BrN2O4
reactant | pyrrolidine | 6.68 mmol, 0.55 mL | N1CCCC1 | C4H9N
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 5,7-Dimethoxy-2-(3-methyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(C=C1)OCCN1CCCC1)C)=O | C23H27N3O4
